US05358950
8 g of 7-n-butyl-5-methyl-8-[(2'-cyano-4-biphenylyl)methyl]-1,2,4-triazolo[1,5-c]pyrimidin-2(3H)-one, prepared in Example 111, are heated to reflux for 10 hours in a solution of 6 g of sodium hydroxide in 30 ml of ethylene glycol and 2 ml of water. This solution, after cooling is acidified with hydrochloric acid to pH 5, and the crystals formed are drained and dried and then washed with acetone to give 5 g of 4'-[(7-n-Butyl-5-methyl-2-oxo-2,3-dihydro-1,2,4-triazolo[1,5-c]pyrimidin-8-yl}methyl]-2-biphenylcarboxylic acid in the form of crystals of melting point 210°-211° C.

reactant | 7-n-butyl-5-methyl-8-[(2'-cyano-4-biphenylyl)methyl]-1,2,4-triazolo[1,5-c]pyrimidin-2(3H)-one | 8 g | C(CCC)C1=C(C=2N(C(=N1)C)NC(N2)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C#N | C24H23N5O
reactant | sodium hydroxide | 6 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethylene glycol | 30 ml | C(CO)O | C2H6O2
solvent | water | 2 ml | O | H2O
product | 4'-[(7-n-Butyl-5-methyl-2-oxo-2,3-dihydro-1,2,4-triazolo[1,5-c]pyrimidin-8-yl}methyl]-2-biphenylcarboxylic acid | 5 g | C(CCC)C1=C(C=2N(C(=N1)C)NC(N2)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O | C24H24N4O3
